US05939417
A solution of 71 g. (0.37 mole) of 1-phenyl-1,2,3-butanetrione-2-oxime in 350 ml. glacial acetic acid and 50 ml. of water is added to 75.5 g. diethyl acetonedicarboxylate in 350 ml. of glacial acetic acid at 70° C. Concurrently, a mixture of 73 g. (1.12 mole) of zinc dust and 91.5 g. (1.12 mole) of anhydrous sodium acetate is added in portions at such a rate that the temperature is maintained near 100° C. After the additions are complete (about 45 minutes), the mixture is refluxed for one hour and poured into iced water. The resulting crude semisolid is collected by filtration and recrystallized twice from methanol to give ethyl 5-benzoyl-3-ethoxycarbonyl-4-methylpyrrole-2-acetate, m.p. 152-154° C. Analysis: Calcd. for C19H21NO5 : C, 66.46; H, 6.16; N, 4.08%. Found: C, 66.50; H, 6.20; N, 4.17%.

reactant | 1-phenyl-1,2,3-butanetrione-2-oxime | 0.37 mole | C1(=CC=CC=C1)C(C(C(C)=O)=NO)=O | C10H9NO3
reactant | diethyl acetonedicarboxylate | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | sodium acetate | 1.12 mole | C(C)(=O)[O-].[Na+]
catalyst | zinc | 1.12 mole | [Zn] | Zn
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 5-benzoyl-3-ethoxycarbonyl-4-methylpyrrole-2-acetate | C(C1=CC=CC=C1)(=O)C1=C(C(=C(N1)CC(=O)OCC)C(=O)OCC)C | C19H21NO5
